US04496560
3-(2-Anilino-thiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]-oct-2-ene (0.9 g) is treated with formic acid (9 cc) in accordance with the working method described in Example 1, and 3-(2-anilino-thiazol-5-yl)-2-carboxy-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.4 g) is obtained in the form of a yellow solid.

reactant | 3-(2-Anilino-thiazol-5-yl)-2-benzhydryloxycarbonyl-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]-oct-2-ene | 0.9 g | N(C1=CC=CC=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C35H28N4O4S3
solvent | formic acid | 9 cc | C(=O)O | CH2O2
product | 3-(2-anilino-thiazol-5-yl)-2-carboxy-8-oxo-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.4 g | N(C1=CC=CC=C1)C=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)O | C22H18N4O4S3
